US08431713B2
Step K: Preparation of tert-Butyl 4-(2-(4-(2-methylpyridin-3-yloxy)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate:
tert-Butyl 4-(2-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate (0.045 g, 0.082 mmol) was dissolved in tetrahydrofuran (5 mL). The solution was cooled to −78° C. and methyllithium (1.6M in ether, 0.064 mL, 0.10 mmol) was added. The reaction was stirred for 5 minutes and then butyllithium (2.5 M in hexanes, 0.041 ml, 0.10 mmol) was added. After 5 minutes, 7-(2-(thieno[3,2-b]pyridin-7-yl)disulfanyl)thieno[3,2-b]pyridine (0.033 g, 0.099 mmol) was added. After stirring for an additional 5 minutes, water added and the solution was allowed to warm to ambient temperature. The reaction mixture was extracted with ethyl acetate, dried and concentrated. The residue was purified by reverse phase HPLC purification to provide the title compound (0.013 g, 25% yield) as an off white solid.

reactant | tert-Butyl 4-(2-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 0.082 mmol, 0.045 g | BrC=1C(=CC(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC=1C(=NC=CC1)C | C24H28BrN5O3S
reactant | methyllithium | 0.10 mmol, 1.6M, 0.064 mL | C[Li]
reactant | butyllithium | 0.10 mmol, 2.5 M, 0.041 ml | C(CCC)[Li]
reactant | 7-(2-(thieno[3,2-b]pyridin-7-yl)disulfanyl)thieno[3,2-b]pyridine | 0.099 mmol, 0.033 g | S1C=CC2=NC=CC(=C21)SSC2=C1C(=NC=C2)C=CS1 | C14H8N2S4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-Butyl 4-(2-(4-(2-methylpyridin-3-yloxy)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 0.013 g, 25% yield | CC1=NC=CC=C1OC1=CC(=NC=C1SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)C2CCN(CC2)C(=O)OC(C)(C)C | C31H32N6O3S3
